US09302988B2
Step 3: N,3,3-Trimethylbutan-1-amine hydrochloride (AMN-38)
4 M HCl in dioxane (4.05 mL, 16.2 mmol) was added dropwise to a solution of tert-butyl 3,3-dimethylbutyl(methyl)carbamate (436 mg, 1.62 mmol) in dry dioxane (4 mL) under a N2 atmosphere. The mixture was stirred at room temperature for 3 d. The mixture was evaporated to dryness, co-evaporated with DCM (15 mL) and the residue was stirred in Et2O for 30 min. The solids were filtered off, rinsed with Et2O and dried on air to yield AMN-38 (222 mg, 72%) as a white solid.

reactant | HCl | 4 M | Cl | ClH
reactant | tert-butyl 3,3-dimethylbutyl(methyl)carbamate | 1.62 mmol, 436 mg | CC(CCN(C(OC(C)(C)C)=O)C)(C)C | C12H25NO2
solvent | dioxane | 4 mL | O1CCOCC1 | C4H8O2
solvent | dioxane | 16.2 mmol, 4.05 mL | O1CCOCC1 | C4H8O2
product | N,3,3-Trimethylbutan-1-amine hydrochloride | Cl.CNCCC(C)(C)C | InChI=1S/C7H17N.ClH/c1-7(2,3)5-6-8-4;/h8H,5-6H2,1-4H3;1H
